US09334271B2
(c) 4-Chloro-6-fluoro-1H-indole
N-(3-Chloro-5-fluoro-phenyl)-N-hydroxy-acetamide (200 mg, 982 μmol) was dissolved in vinyl acetate (1.81 mL, 19.6 mmol), and Li2PdCl4 (25.7 mg, 98 μmol) was added. The reaction mixture was stirred for 3 hr at 60° C. The reaction mixture was diluted with EtOAc and brine; the organic layer was separated and concentrated under reduced pressure to give a solid, which was dissolved in 8 mL of MeOH. 1N aqueous NaOH (1.89 mL, 1.89 mmol) was added, and the reaction was stirred for two hours at room temperature. The reaction mixture was quenched by addition of 2 N aqueous HCl (0.95 mL, 1.9 mmol), followed by addition of 300 mg of Na2CO3. After addition of 50 mL of EtOAc, the organic layers were separated, dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (12 g SiO2; EtOAc/heptane in a gradient from 0/100 to 1/4) to yield the title compound as a liquid (72 mg, 45% over 2 steps). 1H-NMR (DMSO-d6): 11.52 (brs, 1H), 7.45 (d, 1H), 7.20 (d, 1H), 7.05 (d, 1H), 6.45 (d, 1H).

reactant | N-(3-Chloro-5-fluoro-phenyl)-N-hydroxy-acetamide | 982 μmol, 200 mg | ClC=1C=C(C=C(C1)F)N(C(C)=O)O | C8H7ClFNO2
reactant | vinyl acetate | 19.6 mmol, 1.81 mL | C(C)(=O)OC=C | C4H6O2
reactant | NaOH | 1.89 mmol, 1N, 1.89 mL | [OH-].[Na+]
reactant | HCl | 1.9 mmol, 2 N, 0.95 mL | Cl | ClH
reactant | Na2CO3 | 300 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | MeOH | 8 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-6-fluoro-1H-indole | 72 mg, 45% | ClC1=C2C=CNC2=CC(=C1)F | C8H5ClFN
